US07572820B2
B. 4-Chloro-5-cyano-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxamide
To a suspension of 4-chloro-5-cyano-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylic acid (0.026 g, 0.086 mmol) in toluene (3 mL) was added thionyl chloride (0.01 g, 0.09 mmol) and a catalytic amount of DMF. The mixture was heated at 60° C. The reaction was followed by TLC at 30 min intervals, and additional thionyl chloride was added accordingly (an additional 0.082 g, 0.68 mmol was added). Upon cooling, a solution of NH3 in MeOH (2M, 5 mL) was added and the mixture was stirred rapidly for 5 min. The mixture was concentrated in vacuo and the residue was partitioned between EtOAc and water. The organic phase was washed with sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (10-80% EtOAc-hexanes gradient) and the product was crystallized from CH2Cl2-MeOH-hexanes to afford the title compound as a white solid (0.017 g, 65% yield): MS (ES) m/z 302 (M+1).

reactant | 4-chloro-5-cyano-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylic acid | 0.086 mmol, 0.026 g | ClC1=C2C=C(N(C2=CC=C1C#N)CC(F)(F)F)C(=O)O | C12H6ClF3N2O2
reactant | thionyl chloride | 0.09 mmol, 0.01 g | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | NH3 | N | H3N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 2M, 5 mL | CO | CH4O
product | 4-Chloro-5-cyano-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxamide | 0.017 g, 65% yield | ClC1=C2C=C(N(C2=CC=C1C#N)CC(F)(F)F)C(=O)N | C12H7ClF3N3O
